US06362177B1
To a mixture of (R)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]pyrrolidine (0.050 mmol), 4-bromo-2-fluorobenzaldehyde (0.15 mmol), methanol (1.5 mL), and acetic acid (0.016 mL) was added NaBH3CN (0.25 mmol) in methanol (0.50 mL). The reaction mixture was stirred at 50° C. overnight. The mixture was cooled to room temperature, loaded onto Varian™ SCX column, and washed with CH3OH (5 mL×2). Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated. The residue was dissolved in methanol (0.25 mL) and 4 N HCl in dioxane (0.50 mL) was added. The solution was stirred at room temperature for 5 h and concentrated. The residue was dissolved in methanol, loaded onto Varian™ SCX column, and washed with CH3OH (5 mL×2). Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated. The resulting material was dissolved into ethyl acetate (0.5 mL), loaded onto Varian™ Si column, eluted off using ethyl acetate/methanol=5:1 (6 mL), and concentrated to afford (R)-3-[{N-(2-amino-5-trifluoromethylbenzoyl)glycyl}amino]-1-(4-bromo-2-fluorobenzyl)pyrrolidine (Compound No. 2120) (16.0 mg, 31%): The purity was determined by RPLC/MS (99%); ESI/MS m/e 517.0 (M++H, C21H21BrF4N4O2).

reactant | (R)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]pyrrolidine | 0.050 mmol | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)N[C@H]2CNCC2)C=C(C=C1)C(F)(F)F | C19H25F3N4O4
reactant | 4-bromo-2-fluorobenzaldehyde | 0.15 mmol | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | acetic acid | 0.016 mL | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 0.25 mmol | [BH3-]C#N.[Na+]
solvent | methanol | 0.50 mL | CO | CH4O
solvent | methanol | 1.5 mL | CO | CH4O
product | (R)-3-[{N-(2-amino-5-trifluoromethylbenzoyl)glycyl}amino]-1-(4-bromo-2-fluorobenzyl)pyrrolidine | NC1=C(C(=O)NCC(=O)N[C@H]2CN(CC2)CC2=C(C=C(C=C2)Br)F)C=C(C=C1)C(F)(F)F | C21H21BrF4N4O2
